US07456164B2
Intermediate 93: N-(3-chloropropyl)-N-methylcyclobutanamine
To a solution of N-methylcyclobutanamine (1 g, 3.89 mmol) and potassium carbonate (1.18 g, 8.56 mmol) in acetonitrile (20 ml) at 0° C. was added 1-bromo-3-chloropropane (383 μl, 3.89 mmol). Reaction was warmed to room temperature and stirred for 24 hours. Solid removed by filtration and filtrate concentrated in vacuo to give the title compound (241 mg, 38%) as an oil. No purification was performed. LRMS APCI+ m/z 162 [MH]+.

reactant | N-methylcyclobutanamine | 3.89 mmol, 1 g | CNC1CCC1 | C5H11N
reactant | potassium carbonate | 8.56 mmol, 1.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 3.89 mmol, 383 μl | BrCCCCl | C3H6BrCl
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(3-chloropropyl)-N-methylcyclobutanamine | 241 mg, 38% | ClCCCN(C1CCC1)C | C8H16ClN
